US03943141
c. 7-Ethoxy-1,4-dihydro-1(2-hydroxyethyl)-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide
7-Ethoxy-1(2-formyloxyethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (0.5 g) and N,N'-carbonyldiimidazole (0.4 g) in dimethylformamide (10 ml) were stirred and heated to 80° for 6 hours. 5-Amino-1H-tetrazole (0.42 g) was added and the mixture stirred and heated to 80° for 30 minutes. The solid was collected and dissolved in aqueous sodium hydroxide (10 ml, 2N) and the solution was acidified to pH 1 with dilute hydrochloric acid. The solid was filtered off, washed with water and dried, m.p. above 297° (d). (45 %).

reactant | 7-Ethoxy-1(2-formyloxyethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.5 g | C(C)OC1=CC=C2C(C(=CN(C2=N1)CCOC=O)C(=O)O)=O | C14H14N2O6
reactant | 5-Amino-1H-tetrazole | 0.42 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-Ethoxy-1,4-dihydro-1(2-hydroxyethyl)-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxamide | C(C)OC1=CC=C2C(C(=CN(C2=N1)CCO)C(=O)NC1=NN=NN1)=O | C14H15N7O4
